US07476742B2
To a vacuum dried flask charged with argon were added ethyl ((1 S)-5-{2-[2-(4-bromophenyl)-5-methyl-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl )acetate (0.1 g, 0.2 mmol), sodium t-butoxide (0.03 g, 0.3 mmol), 1,1′-biphenyl-2-yl[di(tert-butyl)]phosphine (0.012 g, 0.04 mmol), morpholine (0.022 g, 0.25 mmol), Pd2(dba)3 (0.019 g, 0.02 mmol), and toluene (1 mL). The reaction was degassed by bubbling argon through the flask for 15 minutes. The reaction was stirred at 80° C. for 16 h, then was cooled to rt and filtered through a silica gel plug. The filtrate was evaporated under vacuum and the residue was purified by HPLC to obtain ethyl [(1S)-5-(2-{5-methyl-2-[4-(4-morpholinyl)phenyl]-1,3-oxazol-4-yl}ethoxy)-2,3-dihydro-1H-inden-1-yl]acetate (0.06 g, 0.1 mmol) in 60% yield. 1H NMR ( CDCl3) δ 1.3 (m, 3H), 1.7 (m, 1H), 2.4 (m, 5H), 2.8 (m, 3H), 3.0 (m, 2H), 3.3 (m, 4H), 3.5 (m, 1H), 3.9 (m, 4H), 4.2 (m, 4H), 6.7 (m, 2H), 6.9 (d, 2H), 7.1 (d, 1H), 7.9 (m, 2H); MS (ES) 491 (M+1)+.

reactant | ethyl ((1 S)-5-{2-[2-(4-bromophenyl)-5-methyl-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl )acetate | 0.2 mmol, 0.1 g | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCOC=1C=C2CC[C@H](C2=CC1)CC(=O)OCC)C | C25H26BrNO4
reactant | sodium t-butoxide | 0.3 mmol, 0.03 g | CC(C)([O-])C.[Na+]
reactant | 1,1′-biphenyl-2-yl[di(tert-butyl)]phosphine | 0.04 mmol, 0.012 g | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
reactant | morpholine | 0.25 mmol, 0.022 g | N1CCOCC1 | C4H9NO
catalyst | Pd2(dba)3 | 0.02 mmol, 0.019 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl [(1S)-5-(2-{5-methyl-2-[4-(4-morpholinyl)phenyl]-1,3-oxazol-4-yl}ethoxy)-2,3-dihydro-1H-inden-1-yl]acetate | 0.1 mmol, 0.06 g, 60% yield | CC1=C(N=C(O1)C1=CC=C(C=C1)N1CCOCC1)CCOC=1C=C2CC[C@H](C2=CC1)CC(=O)OCC | C29H34N2O5
